US09427428B2
6-bromo-N-methoxy-N-methyl-2-naphthamide (82.9 g, 282 mmol, 1 equiv.) was dissolved in tetrahydrofurane (600 mL) in a 4-neck flask under nitrogen. The reaction mixture was cooled in an ice bath and methyl magnesium bromide (3.2 M in methyl-tetrahydrofurane, 197 mL, 2.2 equiv.) was added drop wise during 1 hour, while maintaining the temperature of the reaction mixture between 10-15° C. The reaction mixture was stirred 30 minutes further in an ice bath. Aqueous hydrochloric acid (2 M, 100 mL) was then carefully added drop wise while cooling on an ice bath. The organic solvent was evaporated and the precipitated product extracted with dichloromethane (500 mL). The solution was dried over sodium sulphate, filtered and concentrated. The solid residue was dried in vacuum at 40° C. yielding 1-(6-bromonaphthalen-2-yl)-ethanone (70.6 g, 99%).

reactant | 6-bromo-N-methoxy-N-methyl-2-naphthamide | 282 mmol, 82.9 g, 1 equiv. | BrC=1C=C2C=CC(=CC2=CC1)C(=O)N(C)OC | C13H12BrNO2
reactant | methyl magnesium bromide | 3.2 M, 197 mL, 2.2 equiv. | C[Mg]Br
reactant | hydrochloric acid | 2 M, 100 mL | Cl | ClH
solvent | tetrahydrofurane | 600 mL | O1CCCC1 | C4H8O
product | 1-(6-bromonaphthalen-2-yl)-ethanone | 70.6 g, 99% | BrC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H9BrO
